US05763489
To a solution of 2-[(1,2,3,4-tetrahydro-5-methoxy-2-naphthyl)methyl]-6-diphenylmethyl-3(2H)-pyridazinone (0.60 g) in dry dichloromethane (5 ml) was added dropwise 1N boron tribromide in dichloromethane (1.5 ml) under ice bath cooling. The mixture was stirred at the same temperature for 2.5 hours. The mixture was poured into 1N hydrochloric acid and extracted with ethyl acetate. The extract was separated, washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (n-hexane: ethyl acetate=1:1) to give 2-[(1,2,3,4-tetrahydro-5-hydroxy-2-naphthyl)methyl]-6-diphenylmethyl-3(2H)-pyridazinone (0.44 g) as a pale yellow oil.

reactant | 2-[(1,2,3,4-tetrahydro-5-methoxy-2-naphthyl)methyl]-6-diphenylmethyl-3(2H)-pyridazinone | 0.60 g | COC1=C2CCC(CC2=CC=C1)CN1N=C(C=CC1=O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C29H28N2O2
reactant | boron tribromide | 1N | B(Br)(Br)Br | BBr3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | 2-[(1,2,3,4-tetrahydro-5-hydroxy-2-naphthyl)methyl]-6-diphenylmethyl-3(2H)-pyridazinone | 0.44 g | OC1=C2CCC(CC2=CC=C1)CN1N=C(C=CC1=O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C28H26N2O2
